US06545135B2
2,3,4,6-Tetra-O-benzyl-1-O-(1-amino-prop-3-yl)-galactopyranose
A mixture that consists of 42.1 g (100 mmol) of 2,3,4,6-tetra-O-benzyl-galactopyranose, 1.7 g (5 mmol) of tetrabutylammonium hydrogen sulfate and 33.7 g (600 mmol) of fine-powder potassium hydroxide in 350 ml of benzene is cooled to 10° C. At 10° C., 40.2 g (150 mmol) of N-(3-bromopropyl)-phthalimide, dissolved in 100 ml of benzene, is added in drops over 40 minutes while being stirred vigorously. It is stirred for three hours at 10° C. 300 ml of benzene is added, solid is filtered out, and the filtrate is evaporated to the dry state in a vacuum. The filtrate residue is dissolved in 500 ml of ethanol, 25.03 ml of hydrazine hydrate (500 mmol) is added, and it is refluxed for six hours. It is allowed to cool to 0° C., deposited precipitate is filtered out, and the filtrate is evaporated to the dry state in a vacuum. The residue is dissolved in 400 ml of dichloromethane, this solution is washed twice with 5% aqueous sodium hydroxide solution, then once with water (in each case 300 ml). The organic phase is evaporated to the dry state in a vacuum, and the residue is chromatographed on silica gel (mobile solvent: dichloromethane/ethanol/triethylamine=20:2:0.1).

reactant | 2,3,4,6-tetra-O-benzyl-galactopyranose | 100 mmol, 42.1 g | C(C1=CC=CC=C1)O[C@H]1C(O)O[C@@H]([C@@H]([C@@H]1OCC1=CC=CC=C1)OCC1=CC=CC=C1)COCC1=CC=CC=C1 | C34H36O6
reactant | potassium hydroxide | [OH-].[K+]
reactant | N-(3-bromopropyl)-phthalimide | 150 mmol, 40.2 g | BrCCCN1C(C=2C(C1=O)=CC=CC2)=O | C11H10BrNO2
reactant | hydrazine hydrate | 500 mmol, 25.03 ml | O.NN
catalyst | tetrabutylammonium hydrogen sulfate | 5 mmol, 1.7 g | S(=O)(=O)(O)[O-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | benzene | 350 ml | C1=CC=CC=C1 | C6H6
solvent | benzene | 100 ml | C1=CC=CC=C1 | C6H6
solvent | benzene | 300 ml | C1=CC=CC=C1 | C6H6
product | 2,3,4,6-Tetra-O-benzyl-1-O-(1-amino-prop-3-yl)-galactopyranose | C(C1=CC=CC=C1)O[C@H]1C(OCCCN)O[C@@H]([C@@H]([C@@H]1OCC1=CC=CC=C1)OCC1=CC=CC=C1)COCC1=CC=CC=C1 | C37H43NO6
